US06858651B2
A solution of 0.6 g (2.03 mmol) of trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester in 15 ml CH2Cl2 was treated with 0.17 ml (2.24 mmol) methanesulfonylchloride, 0.5 ml (6.1 mmol) pyridine and 0.25 g (2.03 mmol) DMAP at 0° C. The reaction mixture was warmed up over night to room temperature, water (2 ml) was added and the reaction mixture was stirred for 5 min. After extraction with aqueous 10% KHSO4/Et2O (3×), the organic phases were washed with aqueous saturated NaHCO3 (2×), aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 0.74 g (96%) of trans-Methanesulfonic acid 4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl ester, mp: 134-135° C.; MS: 376 (MH+, 1 Cl).

reactant | trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 2.03 mmol, 0.6 g | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CO)=O | C15H20ClNO3
reactant | methanesulfonylchloride | 2.24 mmol, 0.17 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 6.1 mmol, 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 2 ml | O | H2O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.03 mmol, 0.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | trans-Methanesulfonic acid 4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl ester | 0.74 g, 96% | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)COS(=O)(=O)C)C)C=C1 | C16H22ClNO5S
